US06235875B1
Diisopropylethylamine (1.15 ml) and chloromethyl methyl ether (0.5 ml) were added to a solution of benzyl (R)-2-hydroxyl-3-(4-morpholinophenyl)propionate (1.5 g) in dichloromethane (15 ml) under ice-cooling and the mixture was stirred at room temperature for 19 hours. This reaction mixture was diluted with water (40 ml) and extracted with ethyl acetate (20 ml×3). The organic layer was washed serially with 5% sodium hydrogencarbonate solution (20 ml), water (20 ml) and saturated aqueous solution of sodium chloride (20 ml) in the order mentioned and dehydrated over anhydrous sodium sulfate and the solvent was then distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography, elution being carried out with hexane-ethyl acetate (1:2, v/v). From the fraction containing the objective compound, the solvent was distilled off under reduced pressure to provide 1.73 g of benzyl (R)-2-methoxymethoxy-3-(4-morpholinophenyl)propionate.

reactant | Diisopropylethylamine | 1.15 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 0.5 ml | COCCl | C2H5ClO
reactant | benzyl (R)-2-hydroxyl-3-(4-morpholinophenyl)propionate | 1.5 g | O[C@@H](C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)N1CCOCC1 | C20H23NO4
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 40 ml | O | H2O
product | benzyl (R)-2-methoxymethoxy-3-(4-morpholinophenyl)propionate | 1.73 g | COCO[C@@H](C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)N1CCOCC1 | C22H27NO5
